US08957205B2
2-[4-(4-Morpholinylmethyl)phenyl]-3-oxa-1-azaspiro[4.5]dec-1-en-4-one
2 ml of 2N aqueous sodium hydroxide solution was added to a solution of 300 mg (0.69 mmol) of 1-[[[4-(4-morpholinylmethyl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester in 2 ml of tetrahydrofuran, and the mixture was refluxed under heating overnight. After the mixture was neutralized by concentrated hydrochloric acid, the reaction solution was distilled off under reduced pressure. 3 ml of methylene chloride, 698 mg (6.9 mmol) of triethylamine and 264 mg (1.38 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride were added to the residue, and the mixture was stirred for 1 hour. The reaction mixture was distilled off under reduced pressure, a saturated aqueous sodium bicarbonate solution was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium bicarbonate solution and dried with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 191 mg (80%) of the title compound.

reactant | sodium hydroxide | 2N, 2 ml | [OH-].[Na+]
reactant | 1-[[[4-(4-morpholinylmethyl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester | 0.69 mmol, 300 mg | C1(=CC=CC=C1)COC(=O)C1(CCCCC1)NC(=O)C1=CC=C(C=C1)CN1CCOCC1 | C26H32N2O4
reactant | hydrochloric acid | Cl | ClH
reactant | triethylamine | 6.9 mmol, 698 mg | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.38 mmol, 264 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-(4-Morpholinylmethyl)phenyl]-3-oxa-1-azaspiro[4.5]dec-1-en-4-one | 191 mg, 80% | N1(CCOCC1)CC1=CC=C(C=C1)C1=NC2(C(O1)=O)CCCCC2 | C19H24N2O3
